* source EXPERIMENT1
R_R5         N00500 0  5 TC=0,0 
V_V2         N00558 N00500 6
R_R3         N00558 N00490  2 TC=0,0 
R_R1         N00490 N00500  10 TC=0,0 
R_R4         N00490 0  4 TC=0,0 
R_R2         N00644 N00558  1 TC=0,0 
V_V1         N00644 0 8
