* source EXPERIMENT10
V_V1         N14426 0  
+SIN 0 200 50 0 0 0
R_R1         N14426 N14440  0.1 TC=0,0 
X_TX1    N14440 0 N14447 N14454 SCHEMATIC1_TX1 
R_R2         N14454 N14447  100k TC=0,0 
R_R3         0 N14454  1G TC=0,0 
X_TX2    N15181 0 N15249 N15305 SCHEMATIC1_TX2 
R_R5         N15305 N15249  100k TC=0,0 
R_R6         0 N15305  1G TC=0,0 
R_R4         N15173 N15181  0.1 TC=0,0 
V_V2         N15173 0  
+SIN 0 200 50 0 0 0

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 20
L2_TX1         3 4 2000
.ends SCHEMATIC1_TX1

.subckt SCHEMATIC1_TX2 1 2 3 4  
K_TX2         L1_TX2 L2_TX2 1
L1_TX2         1 2 2000
L2_TX2         3 4 20
.ends SCHEMATIC1_TX2
