* source EXPERIMENT2
R_R1         N00527 N00537  4 TC=0,0 
V_V1         N00537 N00543 6
I_I2         0 N00527 DC 1  
R_R2         N00527 N00601  6 TC=0,0 
R_R4         0 N00601  3 TC=0,0 
R_R3         N00601 N00543  2 TC=0,0 
I_I1         0 N00543 DC 2  
