* source EXPERIMENT3
I_I1         0 N01077 DC 10  
V_V1         N01101 0 100
R_R3         0 N01077  5 TC=0,0 
R_R2         0 N01091  20 TC=0,0 
R_R1         N01091 N01101  30 TC=0,0 
R_R4         N01496 0  30 TC=0,0 
R_R5         0 N01478  5 TC=0,0 
R_R6         0 N01496  20 TC=0,0 
V_V2         N01478 N01496 5
V_Vth         N01768 0 10
R_Rl         0 N01778  10 TC=0,0 
R_Rth         N01768 N01778  17 TC=0,0 
