* source EXPERIMENT5
R_R1         N00207 N00214  200 TC=0,0 
V_V1         N00207 0 DC 0 AC 20 
C_C2         0 N00228  0.000047  TC=0,0 
L_L1         N00228 N00214  0.047  
