* source FAT
R_R1         N000361 N00137  1 TC=0,0 
R_R2         0 N00137  10 TC=0,0 
R_R3         N00144 N00137  10 TC=0,0 
R_R4         N00144 0  20 TC=0,0 
V_V1         N000361 0 28
R_R5         0 N00144  {a} TC=0,0 
.PARAM  a=1
