* source STARDELTA
V_V1         N00185 0 DC 0Vdc AC 420 
V_V2         N00199 0 DC 0Vdc AC 420 
V_V3         N00192 0 DC 0Vdc AC 420 
R_R1         N00192 N00185  10 TC=0,0 
R_R2         N00185 N00199  10 TC=0,0 
R_R3         N00192 N00199  10 TC=0,0 
